* c:\Users\jpulu\OneDrive\Área de Trabalho\TCC\circuit.asc
* Generated by LTspice 24.1.10 for Windows.
R1 N003 N002 700k
C1 N003 N002 2p
R2 N002 N005 1µ
I1 N005 0 PWL file=testegenerate_1k.txt AC 1
R7 N006 N003 4.7k
R8 N001 N006 8.2k
C4 filtered N006 68p
C5 N004 N006 0.01µ
R9 filtered N004 4.7k
XU5 filtered N001 3v3 0 V_comp 0 LT1015 ;§pnba In+)In-)VCC)VEE)OUT+)LATCH
V2 N001 0 1.65
V1 3v3 0 3.3
R3 N007 N001 10k
R_PGA amp N007 10
XU3 N001 N004 3v3 0 filtered level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg ;§pnba In+)In-)V+)V-)OUT
XU1 filtered N007 3v3 0 amp level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg ;§pnba In+)In-)V+)V-)OUT
XU2 0 N002 3v3 0 N003 level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg ;§pnba In+)In-)V+)V-)OUT
XU4 amp N001 3v3 0 V_comp_PGA 0 LT1015 ;§pnba In+)In-)VCC)VEE)OUT+)LATCH
XU6 filtered N001 3v3 0 sat level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg ;§pnba In+)In-)V+)V-)OUT
XU7 sat N001 3v3 0 V_comp_sat 0 LT1015 ;§pnba In+)In-)VCC)VEE)OUT+)LATCH
.tran 0 0.0002 0 1u
.lib LT1015.sub
.lib UniversalOpAmp2.lib
.backanno
.end
